US04055561
4'-(3-Phenylpropoxy)acetophenone
A mixture of 68.1 g (0.5 mole) of 4'-hydroxyacetophenone, 100.3 g (0.5 mole) of 3-phenylpropyl bromide, 69.0 g (0.5 mole) of potassium carbonate and 500 ml of anhydrous acetone is refluxed with stirring for 8 hours. After adding 1 liter of water the product is extracted into ether, the extract is washed with water and 2 N sodium carbonate solution and dried over anhydrous sodium sulfate and the solvent is evaporated. The resulting oil (125.8 g) begins to crystallize and yields after two recrystallizations from ether-hexane and ether, respectively, 73.9 g (58% yield) of the desired product, M.P. 80°-81°.

reactant | 4'-hydroxyacetophenone | 0.5 mole, 68.1 g | OC1=CC=C(C=C1)C(C)=O | C8H8O2
reactant | 3-phenylpropyl bromide | 0.5 mole, 100.3 g | C1(=CC=CC=C1)CCCBr | C9H11Br
reactant | potassium carbonate | 0.5 mole, 69.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | acetone | 500 ml | CC(=O)C | C3H6O
solvent | water | 1 liter | O | H2O
product | 4'-(3-Phenylpropoxy)acetophenone | 73.9 g, 58% yield | C1(=CC=CC=C1)CCCOC1=CC=C(C=C1)C(C)=O | C17H18O2
